US06376499B1
Step A: 2-amino-3.5-dicyanopyridine
A mixture of 2-amino-6-chloro-3,5-dicyanopyridine (Synth. Comm. 1993, 2605, 15.0 g, 84 mmol) and 10% palladium on carbon (10.0 g) in dioxane (150 mL) was shaken on a Parr apparatus under hydrogen (55 psi) for 16 h. More catalyst (7.5 g) was added and after a further 4 h the reaction mixture was filtered through celite washing through with ethanol and evaporated in vacuo. The residue was partitioned between methylene chloride and 1 M HCl. The insoluble material was collected by filtration and dried to give the title compound. The methylene chloride layer was washed with brine, dried (Na2SO4) and evaporated in vacuo to give additional product:

reactant | 2-amino-6-chloro-3,5-dicyanopyridine | 84 mmol, 15.0 g | NC1=NC(=C(C=C1C#N)C#N)Cl | C7H3ClN4
catalyst | palladium on carbon | 10.0 g | [Pd] | Pd
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 2-amino-3.5-dicyanopyridine | NC1=NC=C(C=C1C#N)C#N | C7H4N4
